US07514437B2
5-Bromo-2-fluoro-1-benzofuran
5-Bromobenzofuran-2-carboxylic acid (4.68 g) was suspended in carbon tetrachloride (150 ml) and water (50 ml). To this was added sodium bicarbonate (3.36 g), followed by Selectflor (7.1 g) and the reaction mixture was stirred rapidly for 20 hours. The reaction mixture was diluted with dichloromethane and 2N sodium hydroxide solution. The organic phase was separated, washed with brine and dried over anhydrous MgSO4. The solvent was evaporated under reduced pressure at room temperature. The residue was applied to a silica cartridge (20 g) and eluted with diethyl ether. This gave 5-bromo-2-fluoro-1-benzofuran (1.4 g).

reactant | 5-Bromobenzofuran-2-carboxylic acid | 4.68 g | BrC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5BrO3
reactant | sodium bicarbonate | 3.36 g | C([O-])(O)=O.[Na+]
reactant | Selectflor | 7.1 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 50 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 5-Bromo-2-fluoro-1-benzofuran | BrC=1C=CC2=C(C=C(O2)F)C1 | C8H4BrFO
